US05344828
Ethyl (1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)formate
Ethyl chloroformate (19.53 g) was added dropwisely to a solution of 9.52 g of 1,2,3,4,10,14b-hexahydro-2-methyldibenzo[c,f]pyrazino[1,2-a]azepine in 48 ml of benzene at refluxed temperature and the mixture was refluxed for 5 hrs. Ice water was added to the reaction mixture and made alkaline with sodium bicarbonate. The mixture was extracted with benzene and the benzene layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate as an eluent (1:2) to give 8.70 g of pale yellow crystals, which were recrystallized from a mixture of isopropyl ether and n-pentane to give pale yellow prisms, mp 108.5°-109.5° C.

reactant | Ethyl chloroformate | 19.53 g | ClC(=O)OCC | C3H5ClO2
reactant | 1,2,3,4,10,14b-hexahydro-2-methyldibenzo[c,f]pyrazino[1,2-a]azepine | 9.52 g | CN1CC2N(C3=C(CC4=C2C=CC=C4)C=CC=C3)CC1 | C18H20N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | benzene | 48 ml | C1=CC=CC=C1 | C6H6
product | Ethyl (1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)formate | 8.70 g | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)C(=O)OCC | C20H22N2O2
